US05750531
Synthesis of 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-(4-fluorophenylamino)pyrimidine hydrochloride
After 4-fluoroaniline(0.3 ml, 3 mmol) was added to a mixture solution of 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine (0.4 g, 1.4 mmol) and dimethylformamide(10 ml), 0.15 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoroaniline | 3 mmol, 0.3 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine | 1.4 mmol, 0.4 g | CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)Cl | C14H16ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-(4-fluorophenylamino)pyrimidine hydrochloride | 0.15 g, Yield: 26.5% | Cl.CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)NC2=CC=C(C=C2)F | InChI=1S/C20H21FN4S.ClH/c1-12-13(2)22-20(24-19(12)23-17-6-4-16(21)5-7-17)25-10-8-15-9-11-26-18(15)14(25)3;/h4-7,9,11,14H,8,10H2,1-3H3,(H,22,23,24);1H
